US20010018525A1
step 1 {2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy} acetic acid, methyl ester
To a stirred solution of N-(8-indol-1-yl-octyl)-3,5-bis(3-chlorophenyl)-4-(2-hydroxyethoxy)benzamide (0.629 g, 1 mmol) in THF (10 ml) under nitrogen at room temperature was sodium hydride (0.055 g, 2.3 mmol). The mixture was refluxed for 45 minutes, cooled and methylbromoacetate (0.189 g, 1.2 mmol), 15-crown-5 ether (0.022 g, 0.1 mmol), and tetrabutylammoniumniodide (0.037 g, 0.1 mmol) were added. The mixture was refluxed. After 6 h, the reaction mixture was quenched with water and then diluted with water (100 ml) and extracted with EtOAc. This gave a thick emulsion which was separated by acidfying the mixture with 1N HCl. The combined extracts were washed with water (2×15 ml), brine (2×15 ml), dried over Na2SO4, filtered and the filtrate concentrated in vac and dried. The residue was purified by flash chromatography (15%, 20% EtOAc/Hex) and then preparatory plate chromatography (50% EtOAc/Hex) to give the desired product as a viscous, hazy oil (0.400 g, 57%); 1H NMR (400 MHz, DMSO-d6) δ1.16-1.31 (m, 8H), 1.45-1.53 (m, 2H), 1.68-1.76 (m, 2H), 3.20-3.26 (m, 4H), 3.45-3.48 (m, 2H), 3.58 (s, 3H), 3.71 (s, 2H), 4.12 (t, J=6.8 Hz, 2H), 6.37 (dd, J=0.8, 3.1 Hz, 1H), 6.95-6.99 (m, 1H), 7.06-7.10 (m, 1H), 7.32 (d, J= 3.1 Hz, 1H), 7.40-7.52 (m, 6H), 7.57-7.60 (m, 2H), 7.67-7.70 (m, 2H), 7.87 (s, 2H), 8.52 (t, J=4.83 Hz, 1H); IR (film) 3300, 2800, 1750, 1630, 1540, 1470, 1220 cm−1; mass spectrum [(+)APCI], m/z 701 (M+H)+.

reactant | N-(8-indol-1-yl-octyl)-3,5-bis(3-chlorophenyl)-4-(2-hydroxyethoxy)benzamide | 1 mmol, 0.629 g | N1(C=CC2=CC=CC=C12)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)Cl)OCCO)C1=CC(=CC=C1)Cl)=O | C37H38Cl2N2O3
reactant | sodium hydride | 2.3 mmol, 0.055 g | [H-].[Na+]
reactant | methylbromoacetate | 1.2 mmol, 0.189 g | COC(CBr)=O | C3H5BrO2
reactant | 15-crown-5 ether | 0.1 mmol, 0.022 g | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy} acetic acid, methyl ester | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCOCC(=O)OC | C40H42Cl2N2O5
